Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Succinylcholine
 
Attending: ___.
 
Chief Complaint:
Fever, rash
 
Major Surgical or Invasive Procedure:
Spinal tap

 
History of Present Illness:
___ woman w/ hx ulcerative colitis who p/w 1 week of
worsening bilateral lower extremity pinpoint rash with
fevers/chills, Tmax of 103 this AM. 

Patient reports that she was recently traveling in ___ 
___
when she first noticed a red, pinpoint rash on her L medial 
ankle
after walking through some underbrush and scratching her legs.
This seemed to resolve after a day or two but then came back a
few days ago with more extensive spreading up her bilateral 
lower
legs. Denies any itching, weeping or tenderness at site of her
rash. For the past week she has also been experiencing headache,
some neck discomfort, and general malaise which she attributed
partially to heat exhaustion. She also endorses subjective
fevers/chills for the past week, with measured fever Tmax of 103
this morning, and conjunctival injection this morning.  She 
notes
some arthralgias, mostly of the bilateral knees, as well as
decreased appetite with poor PO intake for past week. Denies any
myalgias or URI symptoms. She also noted bilateral lower
extremity edema starting yesterday on the plane - no calf pain,
no CP, no SOB, no history of clots. She denies any sick contacts
and her husband and the couple she was traveling with did not
experience any of these symptoms either. The only animals she 
was
exposed to were her friend's cats - denies any scratches or
bites. Does travel to ___ and ___ often and spends a good 
amount
of time outdoors, including gardening when she's at home. She
does note many mosquito bites but denies any other bug bites or
tick bites.  The only new medication she has been taking is an
antibiotic prescribed to her (a penicillin) for an "infected
gland in the right cheek" that she has a derm procedure 
scheduled
for, which she started prior to her trip to ___. Denies any
lightheadedness/dizziness, confusion, trouble with her vision,
numbness/tingling/weakness, URI symptoms, CP, SOB, abdominal
pain, n/v/d, dysuria. 

In the ED:

Initial vital signs were notable for: 102.2 92 110/69 18 98% RA.
Temp normalized w/ PO acetaminophen and broad spectrum IV abx.
sBP highly variable, lowest at 62, but asx and normal lactate at
that time. Improved w/ IVF. Other vitals, including HR, remained
stable and normal in ED.

Exam notable for:
Gen: Middle-aged appearing woman WNWD in NAD, seen sitting
comfortably with husband at bedside
___: CTAB no WRR, unlabored breathing
CV: Tachycardic rate no MRG, no JVD
HEENT: Dry mucous membranes, bilateral injected conjunctiva
Abdomen: Soft NTND, no rebound tenderness
Extremities: FROM in all 4 extremities, 2+ pulses peripherally
left ankle mildly edematous. Diffuse nonblanching petechial rash
of the bilateral lower extremities as well as bilateral upper
extremities few scattered on the left flank.
Neuro: No gross neurologic deficits, alert and oriented, moves
all extremities no obvious facial abnormalities no meningeal
irritation

Labs were notable for: WBC 6.6. Normal chem panel, LFTs, and 
coag
panel. Normal lactate x2. LP w/ 1 WBC. Urine bland. Parasite
smear negative. Lyme IgG and IgM pending. 

Studies performed include: CXR unremarkable. EKG w/o acute
ischemic changes.

Patient was given: 3L IVF (NS). IV vanc 1g, IV cefepime 2g. PO
acetaminophen x1. 

Consults: none

Vitals on transfer: T98.7, BP 94/60, HR 66, RR 18, O2 98% on RA  

Upon arrival to the floor, patient reported feeling well. She
notes that she did not feel any lightheadedness/dizziness during
her low BP in the ED, and that her BPs often run low. 

 
Past Medical History:
Ulcerative Colitis - in remission, no flares in several years 

Denies PSH 
 
Social History:
___
Family History:
father - MI 
mother - stroke
no hx of autoimmune symptoms 

 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
VITALS: T98.7, BP 94/60, HR 66, RR 18, O2 98% on RA 
GENERAL: Pleasant, Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. bilateral conjunctival injection. MMM.
NECK: ]No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Mild RLL crackles, otherwise clear to auscultation
bilaterally. No wheezes, rhonchi or rales. No increased work of
breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. bilateral nonblanching nonraised petechial rash on
bilateral legs up to thighs (palm/sole sparing) with no
induration or TTP, mild petechial rash on bilateral lower arms,
papules overlying DIP of bilateral hands, scattered cherry
angiomas over abdomen 
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3. No photophobia, no meningismus 

DISCHARGE PHYSICAL EXAM
============================
GENERAL: Pleasant, Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. bilateral conjunctival injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: Right ankle swelling DECREASED, nontender, not 
erythematous
SKIN: Warm. Rash improved from yesterday, but still bilateral 
nonblanching nonraised petechial rash on bilateral legs up to 
knees(palm/sole sparing) with no induration or TTP, papules 
overlying DIP of bilateral hands,
scattered cherry angiomas over abdomen 
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3. No photophobia, no meningismus 

 
Pertinent Results:
ADMISSION LABS
=======================
___ 09:29AM   WBC-6.6 RBC-3.58* HGB-11.1* HCT-33.2* MCV-93 
MCH-31.0 MCHC-33.4 RDW-13.6 RDWSD-46.6*
___ 09:29AM   NEUTS-82.5* LYMPHS-9.4* MONOS-7.3 EOS-0.0* 
BASOS-0.3 IM ___ AbsNeut-5.46 AbsLymp-0.62* AbsMono-0.48 
AbsEos-0.00* AbsBaso-0.02
___ 09:29AM   ___ PTT-25.9 ___
___ 09:29AM   GLUCOSE-110* UREA N-9 CREAT-0.7 SODIUM-136 
POTASSIUM-3.7 CHLORIDE-101 TOTAL CO2-23 ANION GAP-12
___ 09:40AM   LACTATE-1.2
___ 09:29AM   LIPASE-25
___ 09:29AM   ALBUMIN-3.5
___ 09:29AM   ALT(SGPT)-15 AST(SGOT)-18 ALK PHOS-83 TOT 
BILI-0.6
___ 02:16PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 03:28PM   LACTATE-1.0

INTERVAL LABS
===================

___ 03:50PM BLOOD Hypochr-1+* Anisocy-NORMAL Poiklo-NORMAL 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 07:10AM BLOOD Hypochr-NORMAL Anisocy-1+* Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-OCCASIONAL 
Ovalocy-OCCASIONAL Tear Dr-OCCASIONAL
___ 07:20AM BLOOD Ret Aut-1.4 Abs Ret-0.05
___ 09:29AM BLOOD ANCA-PND
___ 07:10AM BLOOD CRP-99.2*
___ 07:20AM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM-PND
___ 07:10AM BLOOD BORRELIA MIYAMOTOI -PND
___ 07:10AM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM-PND
___ 07:10AM BLOOD SED RATE-Test    

DISCHARGE LABS
===================
___ 07:20AM BLOOD WBC-5.5 RBC-3.36* Hgb-10.6* Hct-30.9* 
MCV-92 MCH-31.5 MCHC-34.3 RDW-13.7 RDWSD-46.7* Plt ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-110* UreaN-8 Creat-0.6 Na-140 
K-3.4* Cl-105 HCO3-23 AnGap-12
 
Brief Hospital Course:
PATIENT SUMMARY
====================
Ms. ___ is a ___ woman w/ hx ulcerative colitis 
who p/w 1 week of worsening bilateral lower extremity pinpoint 
rash with fever to 102 and asymptomatic hypotension to SBP ___ 
in the ED, now stable. 

ACUTE ISSUES:
=============
# Sepsis: 
Presented with fever, hypotension, and petechial rash. 
Hypotension with SBPs to ___ in ED resolved with 3L IV fluids to 
SBP ___. Suspicion for insect-borne illness, with travel to 
___ and ___ within the past month. Improved 
clinically, since fluid resuscitation, and antibiotics 
(vancomycin/Cefepime in the ED, transitioned to doxycycline). If 
bacterial infection, likely etiology Borrelia, Anaplasma. Viral 
infection also possible. Pending at discharge: Borrelia 
burg___/mi___, as well as Anaplasma serologies. The 
patient had anemia (discussed below), without evidence of 
hemolysis on labs. Parasite smear was negative x 3. Patient to 
continue doxycycline to complete a ten day course, last day 
___. 

# Petechiae:
Likely secondary to underlying pathology leading to infection as 
discussed above, however vasculitis also possible, given history 
of ulcerative colitis. ANCA pending.

# Anemia
Normochromic normocytic anemia with Hgb 11.1, slightly lower 
than previous baseline in ___ of ___. Has known hx of UC, 
likely anemia of chronic disease. However, has had previously 
borderline iron studies in the past. Unlikely hemolytic due to 
elevated haptoglobin and normal total bilirubin. Ferritin 
elevated, but when corrected for setting of infection, within 
normal limits. 

___ edema 
Pt reporting new ___ edema with recent travel. No calf pain, 
tenderness, CP, SOB. Bilateral LENIs show no sign of DVTs. 
Slight tenderness in left ankle, but no warmth or erythema, or 
concerne for septic joint. 

# Nodule, right cheek
Patient has seen dermatologist 2x for steroid injections and 
antibiotics. Lesion is stable but inflamed. Follow up with 
dermatology as an outpatient

CHRONIC ISSUES:
===============
# hx of UC - In remission per patient, with recent colonoscopy 
in ___ showing some mild rectal inflammation. Not on 
any medications. 

TRANSITIONAL ISSUES:
=====================
[] Doxycycline 10 day course last date ___.
[] F/u Anaplasma, lyme, and borrelia serologies.
[] F/u ANCA.
[] F/u with dermatology regarding cheek nodule.
[] Hgb at discharge 10.6, consider repeating as outpatient and 
further workup if not already done.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vagifem (estradiol) 10 mcg vaginal every 3 months 
2. Vitamin D 400 UNIT PO DAILY 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H Duration: 10 Days 
Last dose ___. 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth every 
twelve (12) hours Disp #*17 Capsule Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Vagifem (estradiol) 10 mcg vaginal every 3 months  
4.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sepsis
Anemia
Right cheek nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?
- You were in the hospital because you had a rash, fever, and 
low blood pressure. We think that this is because you had an 
infection, but we're not sure exactly what type. 

WHAT HAPPENED TO ME WHILE I WAS IN THE HOSPITAL?
- You received IV fluids to help bring your blood pressure back 
to normal. You also got antibiotics to treat a possible 
bacterial infection. We also monitored your blood work to look 
for different signs of infection. We also tested the fluid 
around your spinal cord to see if there was an infection there. 

WHAT DO I NEED TO DO NOW THAT I'M HOME?
- You should take your antibiotics as directed, and go to your 
follow up appointments with your doctor. If you start feeling 
worse, call your doctor or go to the emergency room. 

We wish you all the best!

Your ___ care team
 
Followup Instructions:
___